US08222297B2
A mixture of 6-methyl-8-(4-nitrophenoxy)[1,3]dioxolo[4,5-g]quinoline (2.0 g, 6.18 mmol) in dioxane (100 mL) and 10% Pd/C (500 mg) was hydrogenated for 7 h at 35 psi. The reaction mixture was filtered through a pad of Celite and the filter cake was washed with dioxan. The combined filtrate and washings was evaporated in vacuo to dryness. The solid residue recrystallized from CHCl3 to yield 4-[(6-methyl[1,3]dioxolo-[4,5-g]quinolin-8-yl)oxy]phenylamine, 1.680 g (92.43%); mp 251-253° C.; 1H NMR (DMSO-d6) δ 2.43 (3H, s, Me), 5.56 (2H, brs, exchangeable, NH2), 6.21 (2H, s, CH2), 6.32 (1H, s, ArH), 6.66 (2H, d, J=8.6 Hz, ArH), 6.90 (2H, d, J=8.6 Hz, ArH), 7.28 (1H, s, ArH), 7.49 (1H, s, ArH). Anal. Calcld. for (C17H14N2O3): C, 69.38; H, 4.79; N, 9.25. Found: C, 69.57; H, 4.88; N, 9.32.

reactant | 6-methyl-8-(4-nitrophenoxy)[1,3]dioxolo[4,5-g]quinoline | 6.18 mmol, 2.0 g | CC1=NC=2C=C3C(=CC2C(=C1)OC1=CC=C(C=C1)[N+](=O)[O-])OCO3 | C17H12N2O5
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 4-[(6-methyl[1,3]dioxolo-[4,5-g]quinolin-8-yl)oxy]phenylamine | CC1=NC=2C=C3C(=CC2C(=C1)OC1=CC=C(C=C1)N)OCO3 | C17H14N2O3
